* ADA4062-2 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: 8/30V, JFET, OP, Low Pwr, Low Ib, 2X
* Developed by: ADSJ -- VW
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (10/2008)
* 1.1 (01/2020) - modify offset generator from EOS to VOS
* Copyright 2008, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*    This model simulates typical value parameters at Vs=+/-15V
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT ADA4062-2       1   2   99  50  30
*#ASSOC Category="Op-amps" symbol=opamp


* INPUT STAGE
R3   5  50  8.609E+03
R4   6  50  8.609E+03
CIN  1   2    1.5E-12
I1   99  4    4.182E-04
IOS  1   2    2.50E-13
VOS  60  1    0.5E-03 
EN   7  60 POLY(2) (81, 98) (70,98) 0 1 1
J1   5   2    4   JX
J2   6   7    4   JX
GB1  2  50    POLY(3) (4,2) (5,2) (50,2) 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) (4,7) (6,7) (50,7) 0 1E-12 1E-12 1E-12
EREFNEG 1000 0 24 0 -1   

EREF 98 0 POLY(2) (99,0) (50,0) 0 .5 .5 


* VOLTAGE NOISE GENERATOR
VN1  80 98 0
RN1 80 98 17E-3 
HN  81 98 VN1 3.54885E1 
RN2 81 98 1


* Flicker noise
D10 69 98 DNOISE
VSN 69 98 DC .6551
H1 70 98 POLY(1) VSN 1e-3 1
RN 70 98 1


* SECOND STAGE 
R5   9  98    4.24E+04
C3   9  98    3.95E-8
G1   98  9    5  6  3.58E-02
V2   99  8    2.05
V3   10 1000    -13.35
D1   9   8    DX
D2   10  9    DX


* COMMON-MODE GAIN NETWORK
E3   16 98     POLY(2) (1,98)  (2,98)  0  401.67 401.67
R11  16 17     2.27E+01
R12  17 98     1.59E-06
C8   16 17     1E-6


* PSRR NETWORK
EPSY 98 72 POLY(1) (99,50) -10 0.667 
CPS3 72 73 1E-6
RPS3 72 73 1.06e3
RPS4 73 98 1.59E-1


* SECOND POLE 
R13  18 98     1E3
C9   18 98   1.25e-11
G5   98 18     9  24  1E-3


* OUTPUT STAGE
R14  24 99     500E3
R15  24 50     500E3
CF   24  0     1E-6
GSY  99 50      POLY(1) 99 50 -1.18e-4 6.73e-15 
R16  29 99     110
R17  29 50     110
L1   29 30     3E-6
G6   27 50     18 29  9.09E-03
G7   28 50     29 18  9.09E-03
G8   29 99     99 18  9.09E-03
G9   50 29     18 50  9.09E-03
V4   25 29     0.675
V5   29 26     0.675
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1   29  0     V4  1
F2   0  29     V5  1


* MODELS USED
.MODEL JX PJF(BETA=1.4E-3  VTO=-1.000  IS=20E-12 RD=0
+ RS=0 CGD=1E-12 CGS=1E-12)
.MODEL DX   D(IS=1E-12 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-12 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=200 KF=2.651E-15 AF=6.8E-14)
.MODEL DIN  D(IS=1E-12 RS=12090 KF=0 AF=1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=1.01E-11)


.ENDS ADA4062-2









